data/oMe_Silver.jsonl
{"reaction_id": "NR-044_1-CC(C)C_2-C1CC1_3-CCCC_4-c1ccc(OC)cc1_5-CCC_6-C1CCCCC1","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](CC(C)C)(C1CC1)C(CCCC)(c1ccc(OC)cc1)[N+](CCC)(C1CCCCC1)[O-]"],"products_smiles": ["C(CC(C)C)(C1CC1)=C(CCCC)(c1ccc(OC)cc1)","O[N](CCC)(C1CCCCC1)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC(C)C)(C1CC1)=C(CCCC)(c1ccc(OC)cc1).O[N](CCC)(C1CCCCC1)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
{"reaction_id": "NR-210_1-C_2-c2ccc(OC)cc2_3-C(C)(C)C","level": "medium","name": "Parikh-Doering Oxidation","reactants_smiles": ["O=S(C)(C)","O(C(c2ccc(OC)cc2)(C(C)(C)C))"],"products_smiles": ["O=C(c2ccc(OC)cc2)C(C)(C)C"],"conditions": "Et3N,SO3,Py","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=[N+](C=C1)[S](=O)(=O)[O-]","step_weight": 0,"rationale": "SO3 coordinates to pyridine due to pyridine’s nucleophilicity and the strong electrophilicity of sulfur, forming a reactive sulfonyl–pyridinium complex."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C[S+](C)O[S](=O)(=O)[O-]","step_weight": 0,"rationale": "The alcohol oxygen attacks the activated sulfur center, as sulfur is highly electrophilic and pyridine is a good leaving group under these conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([S](C)(O([S](=O)(=O)[O-]))O(C(c2ccc(OC)cc2)(C(C)(C)C)))","step_weight": 0,"rationale": "The alkoxide generated from the alcohol displaces a leaving group on sulfur, forming an alkoxysulfonium species stabilized by the electron-withdrawing sulfonyl group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S](C)(=C)O(C(c2ccc(OC)cc2)(C(C)(C)C))","step_weight": 0,"rationale": "Base-induced elimination occurs because the α-proton is acidic due to adjacent positively charged sulfur, generating a sulfur ylide intermediate."},{"step": 5,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "O=C(c2ccc(OC)cc2)C(C)(C)C","step_weight": 0,"rationale": "The sulfur ylide undergoes a [2,3]-sigmatropic rearrangement, driven by formation of a stable carbonyl and relief of charge separation."}],"description": "In the Parikh–Doering oxidation, the alcohol is oxidized to a carbonyl compound under mild, non-aqueous conditions using SO3–pyridine and triethylamine. The sequence involves activation of the oxidant, formation of an alkoxysulfonium intermediate, elimination to a sulfur ylide, and rearrangement to the carbonyl product."}
